* Z:\mnt\design.r\spice\examples\2953-2.asc
V1 IN 0 8.4
R1 IN N002 2150K
R2 N002 N006 23.2K
R3 N006 0 196K
XU1 OUT OUT MP_01 0 N001 MP_02 MP_03 N001 LT3010-5
C1 OUT 0 1µ
R4 IN N012 100K
M§Q1 N012 N013 0 0 2N7002
R5 IN N003 100K
R6 N005 0 100K
R7 OUT N005 499K
R8 OUT N007 100K
R9 OUT N009 100K
R10 OUT N011 100K
C2 N010 0 1µ
V2 N008 0 PWL(0 0 2.8 0 2.801 3.3 3 3.3 3.001 0 4 0 4.001 3.3 6 3.3 6.001 0 6.499 0 6.5 3.3 9 3.3 9.001 0 12.999 0 13 3.3 14 3.3 14.001 0 14.499 0 14.5 3.3)
XU2 0 N005 N012 N010 N008 IN N002 N006 N009 N007 N003 N011 LTC2953-2
M§Q2 N001 N004 IN IN FDS4435A
R11 N004 N003 100K
V3 N013 0 PWL(0 0 15.999 0 16 5 17 5 17.001 0)
Rload OUT 0 100
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20 startup
.lib LT3010.lib
.lib LTC2953-2.sub
.backanno
.end
